US07166597B2
b) 2-(4-Fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)pyrazolo[1,5-a]pyridine
A mixture of 2-(4-fluorophenyl)-3-acetylpyrazolo[1,5-a]pyridine (1.0 g, 3.93 mmol) in N,N-dimethylformamide dimethyl acetal (10 mL) was stirred and heated at reflux for 17 h. The mixture was cooled to room temperature and the volatiles evaporated under reduced pressure. The residue was purified by silica gel chromatography (eluded with 1% MeOH/CH2Cl2) to afford the title compound as an orange solid, 0.830 g (68%). 1H NMR (CDCl3) 88.50 (d, 1H, J=6.9 Hz), 8.39 (d, 1H, J=9.0 Hz), 7.83 (d, 2H, J=12.6 Hz), 7.73 (m, 2H), 7.39 (m, 1H), 7.20 (m, 2H), 6.93 (m, 1H), 5.13 (d, 1H, J=12.5 Hz), 3.10 (s. 3H), 2.56 (s, 3H). MS (+ve ion electrospray) 310 (90), (MH+).

reactant | 2-(4-fluorophenyl)-3-acetylpyrazolo[1,5-a]pyridine | 3.93 mmol, 1.0 g | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C)=O | C15H11FN2O
reactant | N,N-dimethylformamide dimethyl acetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | 2-(4-Fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)pyrazolo[1,5-a]pyridine | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C=CN(C)C)=O | C18H16FN3O
